US04230879
4-Dimethoxymethyl-4-trimethylsiloxy-1-octyne
To a suspension of 5.31 g. (0.22 moles) of magnesium in 15 ml. of ether is added 100 mg. of mercuric chloride and 1.5 ml. of 1,2-dibromoethane. After the reaction begins, another 45 ml. of ether is added followed by the dropwise addition of a solution of 25 g. (0.16 moles) of 1,1-dimethoxy-2-hexanone and 27.3 g. (0.2 moles) of 85% propargyl bromide in 45 ml. of ether at a rate which maintains reflux. Midway through the addition 15 ml. of tetrahydrofuran is added. After complete addition of the solution, the mixture is refluxed for 40 minutes. The mixture is cooled to 0° C. and saturated ammonium chloride solution is added followed by magnesium sulfate. The mixture is filtered through Celite and the solvent is removed. The residue is dissolved in 53 ml. of dimethylformamide and at 0° C. is added 24.4 g. (0.36 moles) of imidazole and 21.19 g. (0.20 moles) of trimethylchlorosilane. After stirring at 25° C. for 70 minutes, the solution is poured into water and extracted with hexanes. The organic layer is dried over magnesium sulfate and the solvent is removed. Distillation (75°-95° C., 0.3 mm.) gives 17.4 g. of the title compound.

reactant | magnesium | 0.22 moles | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 1,1-dimethoxy-2-hexanone | 0.16 moles | COC(C(CCCC)=O)OC | C8H16O3
reactant | propargyl bromide | 0.2 moles | C(C#C)Br | C3H3Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | imidazole | 0.36 moles | N1C=NC=C1 | C3H4N2
reactant | trimethylchlorosilane | 0.20 moles | C[Si](Cl)(C)C | C3H9ClSi
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Dimethoxymethyl-4-trimethylsiloxy-1-octyne | COC(C(CC#C)(CCCC)O[Si](C)(C)C)OC | C14H28O3Si
